US08138187B2
(±)-N,N-Dimethyl-N-[4-(3-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-1-phenylcyclohex-3-enyl]amine
P4O10 (approx. 1 g, two spatula-tips) was added to a solution of 4-dimethylamino-1-(3-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-4-phenylcyclohexanol (600 mg, 1.72 mmol) in methanesulfonic acid (20 ml). The slightly pale brown-coloured solution was stirred at 77° C. (oil bath temperature) for 3 h. Water (10 ml) was added to the reaction mixture and this was rendered basic with sodium hydroxide solution (5 M). Methylene chloride (30 ml) was then added and the mixture was stirred for 10 min. The phases were separated. The aqueous phase was extracted with methylene chloride (3×35 ml). The combined organic phases were dried over sodium sulfate. The volatile constituents were then removed completely in vacuo. 425 mg of (±)-N,N-dimethyl-N-[4-(3-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-1-phenylcyclohex-3-enyl]amine remained (dark brown solid, slightly contaminated).

reactant | P4O10 | approx. 1 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 4-dimethylamino-1-(3-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-4-phenylcyclohexanol | 1.72 mmol, 600 mg | CN(C1(CCC(CC1)(O)C1=C(C=2C=NC=CC2N1)C)C1=CC=CC=C1)C | C22H27N3O
reactant | Water | 10 ml | O | H2O
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
solvent | methanesulfonic acid | 20 ml | CS(=O)(=O)O | CH4O3S
solvent | Methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (±)-N,N-Dimethyl-N-[4-(3-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-1-phenylcyclohex-3-enyl]amine | CN(C1(CC=C(CC1)C1=C(C=2C=NC=CC2N1)C)C1=CC=CC=C1)C | C22H25N3
